US04614732
N6 -[(1,2-Dihydro-1-acenaphthylenyl)methyl]adenosine
Six chloropurine riboside (1.7 g, 6 mmol), triethyl amine (1.5 g, 15 mmol) and the N-[(1,2-dihydro-1-acenaphthylenyl)methyl]amine, B, as prepared in the following Example B (1.4 g, 6.4 mmol) were stirred at reflux in ethanol (100 ml) overnight. The solution was cooled to room temperature and filtered free of solid. The solution was washed with ethanol (50 ml) and dried at 65° C. in vacuo for four hours, to give 2.2 g (85%) of a white solid, mp 173°-175° C. Anal. (C23H23N5O4); calc: C=63.73, H=5.35, N=16.16; found: C=63.55, H=5.49, N=16.00.

reactant | chloropurine riboside | 6 mmol, 1.7 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | triethyl amine | 15 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | N-[(1,2-dihydro-1-acenaphthylenyl)methyl]amine | C1(CC2=CC=CC3=CC=CC1=C23)CN | C13H13N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N6 -[(1,2-Dihydro-1-acenaphthylenyl)methyl]adenosine | 2.2 g, 85% | C1(CC2=CC=CC3=CC=CC1=C23)CNC=2C=3N=CN([C@H]1[C@H](O)[C@H](O)[C@@H](CO)O1)C3N=CN2 | C23H23N5O4
